US08314119B2
2-chloro-N-(4-chlorophenyl)oxazole-4-carboxamide
Prepared from ethyl 2-chlorooxazole-4-carboxylate (83.5 mg, 0.475 mmol) and 4-chloroaniline (60.5 mg, 0.475 mmol) as described in Example 154A: 1H NMR (500 MHz, DMSO-D6) δ ppm 7.37-7.45 (m, 2H), 7.81-7.89 (m, 2H), 8.91 (s, 1H), 10.45 (s, 1H) MS (DCI/NH3) m/z=274 (M+NH4)+.

reactant | ethyl 2-chlorooxazole-4-carboxylate | 0.475 mmol, 83.5 mg | ClC=1OC=C(N1)C(=O)OCC | C6H6ClNO3
reactant | 4-chloroaniline | 0.475 mmol, 60.5 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | NH3 | N | H3N
product | 2-chloro-N-(4-chlorophenyl)oxazole-4-carboxamide | ClC=1OC=C(N1)C(=O)NC1=CC=C(C=C1)Cl | C10H6Cl2N2O2
